US06693197B2
Preparation of (2S)-1-(Benzyloxy)-3-[(5-Bromo-2-Methyl-6-Quinolinyl)Oxyl]-2-Propanol
A solution of 5-bromo-2-methyl-6-quinolinol (30.1 g, 126 mmol), (R)-benzyl glycidyl ether (24.9 g, 152 mmol) and triethylamine (17.4 g, 172 mmol) in DMA (200 mL) was heated in a 95-98° C. oil bath for 2 days. The solution was cooled and poured into water (300 mL) while stirring. The tan precipitate formed was filtered, washed with water (100 mL) and dried in a vacuum oven to give 37 g (73%) of the title compound as a tan solid.

reactant | 5-bromo-2-methyl-6-quinolinol | 126 mmol, 30.1 g | BrC1=C2C=CC(=NC2=CC=C1O)C | C10H8BrNO
reactant | (R)-benzyl glycidyl ether | 152 mmol, 24.9 g | C([C@H]1CO1)OCC1=CC=CC=C1 | C10H12O2
reactant | triethylamine | 172 mmol, 17.4 g | C(C)N(CC)CC | C6H15N
reactant | water | 300 mL | O | H2O
solvent | DMA | 200 mL | CC(=O)N(C)C | C4H9NO
product | (2S)-1-(Benzyloxy)-3-[(5-Bromo-2-Methyl-6-Quinolinyl)Oxyl]-2-Propanol | 37 g, 73% | C(C1=CC=CC=C1)OC[C@@H](COC=1C(=C2C=CC(=NC2=CC1)C)Br)O | C20H20BrNO3
